US07297795B2
To a suspension of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-[(3-iodo-4-methoxyphenyl)amino]prop-2-enamide (720 mg, 1.39 mmol) in 40 mL of acetonitrile was added 0.2 mL of methanol. The mixture was heated to reflux and phosphorous oxychloride (1.24 mL, 13.9 mmol) was added dropwise, via syringe. This solution was heated at reflux overnight. After 24 hours, the mixture was cooled in an ice-bath and the solid was collected by filtration, washed with cold acetonitrile (40 mL) and then suspended in tetrahydrofuran (100 mL). To both the acetonitrile filtrate and the tetrahydrofuran suspension were added concentrated ammonium hydroxide (2×50 mL) and the mixtures were stirred for 1 hour. Water (2×800 ml) was added and stirring was continued for 2 hours. The resulting solids were combined, washed with hot water and dried under reduced pressure at ˜40° C., overnight, to provide 200 mg (29%) of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-iodo-6-methoxy-3-quinolinecarbonitrile, as yellow solid, mp 253-254° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.86 (s, 3H), 4.00 (s, 3H), 7.33(s, 1H), 7.74(s, 1H), 7.86 (s, 1H), 8.39 (s, 1H), 8.43 (s, 1H), 9.61 (s, 1H); MS (ES) m/z 500.0, 502.1 (M+H)+

reactant | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-[(3-iodo-4-methoxyphenyl)amino]prop-2-enamide | 1.39 mmol, 720 mg | C(#N)C(C(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl)=CNC1=CC(=C(C=C1)OC)I | C18H14Cl2IN3O3
reactant | methanol | 0.2 mL | CO | CH4O
reactant | phosphorous oxychloride | 13.9 mmol, 1.24 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-iodo-6-methoxy-3-quinolinecarbonitrile | 200 mg, 29% | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)I)C#N | C18H12Cl2IN3O2
